US04237055
7-t-Butyldiphenylsiloxy-2-[2-bromomethyl-2-methoxy-tetrahydrofuran-5-yl]-6-methyl-heptan-2-ol is prepared as a mixture of cis:trans isomers by employing 7-t-butyldiphenylsiloxy-2-[2-bromomethyl-2-hydroxy-tetrahydrofuran-5-yl]-6-methyl-heptan-2-ol (1.33 g) in place of 7-benzyloxy-2-(2-bromomethyl-2-hydroxy-tetrahydrofuran-5-yl)-6-methyl-heptan-2-ol in the process for the preparation of 7-benzyloxy-2-[2-bromomethyl-2-methoxy-tetrahydrofuran-5-yl]-6-methyl-heptan-2-ol. The mixture of cis and trans isomers is separated by chromatography on silica gel (ethyl acetate:hexane gradient) to give the cis isomer as a yellow oil (0.324 g) and then the trans isomer as a yellow oil (0.151 g):

reactant | 7-t-butyldiphenylsiloxy-2-[2-bromomethyl-2-hydroxy-tetrahydrofuran-5-yl]-6-methyl-heptan-2-ol | 1.33 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC(CCCC(C)(O)C1CCC(O1)(O)CBr)C | C29H43BrO4Si
reactant | 7-benzyloxy-2-[2-bromomethyl-2-methoxy-tetrahydrofuran-5-yl]-6-methyl-heptan-2-ol | C(C1=CC=CC=C1)OCC(CCCC(C)(O)C1CCC(O1)(OC)CBr)C | C21H33BrO4
product | 7-t-Butyldiphenylsiloxy-2-[2-bromomethyl-2-methoxy-tetrahydrofuran-5-yl]-6-methyl-heptan-2-ol | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC(CCCC(C)(O)C1CCC(O1)(OC)CBr)C | C30H45BrO4Si
